* Full-Wave Bridge Rectifier (Without Filter Capacitor)
* Author: Antigravity Systems Automation
* Date: 2026-09-22
* Primary Supply: 230V RMS @ 50 Hz (325.27V Peak)
* 10:1 Transformer: Steps down to 23V RMS @ 50 Hz (32.53V Peak)
* Rectifier Bridge: 1B4B42 (1.5A Silicon Bridge Rectifier)
* Load: 33 Ohm Power Resistor

* Primary Circuit
V_PRI 1 0 SIN(0 325.27 50)
R_PRI 1 11 0.1
L_PRI 11 0 10.0

* Secondary Circuit & Coupling (10:1 Ratio: sqrt(10/0.1) = 10)
L_SEC 2 3 0.1
K_XFMR L_PRI L_SEC 0.999
R_SEC_REF 3 0 10MEG

* 1B4B42 Bridge Rectifier Diodes
D1 2 4 D1B4B42
D2 3 4 D1B4B42
D3 0 2 D1B4B42
D4 0 3 D1B4B42

* 33 Ohm Load Resistor
R_LOAD 4 0 33

* Diode Model for 1B4B42 (1.5A, 600V Silicon Rectifier)
.model D1B4B42 D(Is=1e-9 Rs=0.08 N=1.5 Cjo=50p)

.tran 100u 100m
.end
